US05849732
Under ice-cooling, to 200 ml of a tetrahydrofuran (THF) solution containing 5.0 g of N-(4-piperidylmethyl)-N-benzylamine was added dropwise 50 ml of a THF solution containing 2.9 ml of benzyl bromide. After stirring the mixture at the same temperature for one hour, THF was removed from the reaction mixture under reduced pressure and a saturated sodium hydrogen carbonate aqueous solution was added to the residue. The mixture was extracted with ethyl acetate. The extract was washed and dried, and the solvent was removed under reduced pressure. Precipitated crystals were recrystallized from an ethanol solution to give 3.6 g of N-(1-benzylpiperidin-4-ylmethyl)-N-benzylamine (yield: 50%, melting point: 240° C. or higher).

reactant | N-(4-piperidylmethyl)-N-benzylamine | 5.0 g | N1CCC(CC1)CNCC1=CC=CC=C1 | C13H20N2
reactant | benzyl bromide | 2.9 ml | C(C1=CC=CC=C1)Br | C7H7Br
solvent | THF | 50 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
product | N-(1-benzylpiperidin-4-ylmethyl)-N-benzylamine | 3.6 g, yield: 50% | C(C1=CC=CC=C1)N1CCC(CC1)CNCC1=CC=CC=C1 | C20H26N2
